US04194049
4-Chloro-2[(2-fluorophenyl)methyl]-N-(1-aminoethylidene)benzenamine
In 500 ml three-necked flask fitted with a stirrer, gas inlet tube, and a double condenser is placed 13.65 g (50 mmoles) of 4-chloro-2[(2-fluorophenyl)methyl]benzenamine and 200 ml of acetonitrile. Hydrogen chloride gas is bubbled into this stirred suspension. The temperature rises to ca. 38° C. and a solution is formed in about 10 min. The reaction mixture is then heated to gentle reflux while maintaining a stream of hydrogen chloride throught the reaction mixture. After 1 hr TLC of an aliquent using 2% acetic acid, 10% MeOH in CHCl3 or 1% NH4OH/20% MeOH in CHCl3 on fluorescent silica plates shows only a trace of starting material. The reaction mixture is then concentrated in vacuo to a pale semi-solid. This is partitioned between 100 ml of methylene chloride and ca 30 ml of 3 N sodium hydroxide. The aqueous phase is back extracted with 100 ml of methylene chloride. The organic phases are combined, washed with 50 ml of brine, dried over potassium carbonate and concentrated in vacuo to pale yellow oil. This oil is crystallized from hexane with a little methylene chloride to give end product of m.p. 115°-119° C.

reactant | 4-chloro-2[(2-fluorophenyl)methyl]benzenamine | 50 mmoles, 13.65 g | ClC1=CC(=C(C=C1)N)CC1=C(C=CC=C1)F | C13H11ClFN
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | hydrogen chloride | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | NH4OH | [NH4+].[OH-]
solvent | MeOH | CO | CH4O
product | 4-Chloro-2[(2-fluorophenyl)methyl]-N-(1-aminoethylidene)benzenamine | ClC1=CC(=C(C=C1)N=C(C)N)CC1=C(C=CC=C1)F | C15H14ClFN2
